US07838524B2
Preparation of 1-[2-(4-aminophenyl)-5-tert-butyl-2H-pyrazol-3-yl]-3-[4-(pyridin-4-yloxy)phenyl]urea
A solution of 1-[5-tert-butyl-2-(4-nitrophenyl)-2H-pyrazol-3-yl]-3-[4-(pyridin-4-yloxy)phenyl]urea (2.5 g, 5.3 mmol) in anhydrous EtOH (40 mL) was added to a round bottle (100 mL) flask containing 10% Pd/C (30 mg). The reaction vessel was fitted with a balloon adapter and charged with hydrogen and evacuated three times until the reaction was under a H2 atmosphere. The reaction mixture was stirred at room temperature for 18 h, and then filtered through a pad of celite. The celite was washed with EtOH (200 mL) and the filtrate was concentrated at reduced pressure. The residue was purified by MPLC (1:1 hexanes/EtOAc) to give 1.8 g (77%) of the desired product. 1H-NMR (DMSO-d6) δ 9.16 (s, 1H), 8.42 (d, J=5.4 Hz, 2H), 8.17 (s, 1H), 7.47 (d, J=6.9 Hz, 2H), 7.09 to 7.04 (m, 4H), 6.86 (d, J=5.7 Hz, 2H), 6.64 (d, J=6.6 Hz, 2H), 6.28 (s, 1H), 6.38 (s, 2H), 1.18 (s, 9H); MS LC-MS [M+H]+=443, RT=1.95 min.

reactant | 1-[5-tert-butyl-2-(4-nitrophenyl)-2H-pyrazol-3-yl]-3-[4-(pyridin-4-yloxy)phenyl]urea | 5.3 mmol, 2.5 g | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)[N+](=O)[O-])NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1 | C25H24N6O4
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 40 mL | CCO | C2H6O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 1-[2-(4-aminophenyl)-5-tert-butyl-2H-pyrazol-3-yl]-3-[4-(pyridin-4-yloxy)phenyl]urea | 1.8 g, 77% | NC1=CC=C(C=C1)N1N=C(C=C1NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1)C(C)(C)C | C25H26N6O2
